Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fevers
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Mr. ___ is a ___ year old male with no significant past 
medical history who presents with fevers.  Patient reports that 
___ night at work he first developed a dull headache.  
This headache was in the front of his head, bitemporal, and 
throughout the shift began to radiate to the back of his head 
and down his neck
and back.  On ___, patient reports that the headache became 
severe.  He then developed a fever.  He started to take 
acetaminophen for his fever.  On ___, he began to develop a 
cough and was feeling short of breath.  He went into work that 
day, and was given orange juice.  He threw this up.  On ___, 
he developed diarrhea.  He did not note any significant nausea 
or stomach pain.  He has had back pain that has radiated down 
from his neck. He denies any dysuria or increased urinary 
frequency.  No rashes. No lymphadenopathy.  He reports no recent 
exposures to ticks.  He denies any recent hiking, or visiting 
the ___.  He does note around a month ago he was 
scratched by his cat.  He also notes that his fiancée was 
recently hospitalized for Crohn's flare, and that one other 
person at his work called out sick this weekend.

As for his headache, he states that it has improved since 
earlier this week.  He has noted no neck stiffness.  He denies 
photophobia or phonophobia.  No change in vision, difficulty 
with balance, or weakness.

Patient denies any significant medical history, however, he does 
endorse drinking 5 shots of alcohol night for the last year at 
least. He states he has withdrawn from alcohol the past. He does 
not feel tremulous. His last drink was 5 days ago.

In the ED, initial vitals: T 100.8, HR 114, BP 127/87, RR 17, 
96% RA 
  
Labs were significant for  
- CBC: WBC 8.0, Hgb 13.9, Plt 118

- Lytes:
123 / 83 / 40   
-------------- 108 
4.3 \ 19 \ 2.6 

- AST: 82 ALT: 44 AP: 67 Tbili: 0.8 Alb: 3.4  Lipase 54

- lactate 1.4
 
Imaging was significant for: CXR with left lower lobe 
consolidation, worrisome for pneumonia. Possible associated left 
pleural effusion.
 
In the ED, pt received  
___ 22:08 PO Acetaminophen 1000 mg   
___ 22:09 IVF  NS 1000 mL   
___ 23:18 IV Levofloxacin 750 mg ordered 
___ 23:19 IVF  NS 1000 mL ordered

Vitals prior to transfer: T 101.6, HR 94, BP 119/79, RR 17, 93% 
RA 

Currently, patient denies any pain, though does state that he 
feels very tired
 
ROS: Positive as noted above. Negative for: No weight changes. 
No changes in vision or hearing, no changes in balance. No chest 
pain or palpitations. No dysuria or hematuria. No hematochezia, 
no melena. No numbness or weakness, no focal deficits.  
 
Past Medical History:
 reports no significant PMH. Last saw a doctor around ___ years 
ago
 

 
Social History:
___
Family History:
 family history of prostate cancer
 
Physical Exam:
ADMISSION EXAM:
VITALS: T 97.8, HR 89, BP 124/81, RR 22, 95% RA 
GENERAL: Tired appearing with quiet voice.  No acute distress.
EYES: Anicteric, pupils equally round and reactive to light.
ENT: Ears and nose without visible erythema, masses, or trauma.  
Oropharynx without visible lesion, erythema or exudate
NECK: Supple, without lymphadenopathy. Negative Kernig and 
Brudzinski signs
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Mild wheezes in R lung. No rhonchi appreciated. Occasional 
cough during interview. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation, though 
does report some discomfort.  Bowel sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs, sensation to light touch 
grossly intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
24 HR Data (last updated ___ @ 1139)
    Temp: 98.3 (Tm 99.1), BP: 153/95 (137-159/86-98), HR: 58 
(57-74), RR: 18, O2 sat: 95% (95-96), O2 delivery: RA  
GENERAL: Alert, NAD, sitting up in bed
HEENT: NC/AT
CV: RRR, no m/r/g
RESP: Ongoing rales in the L lung; some mild rales noted at the 
R lung base as well; breathing appears comfortable
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel 
sounds present.   
SKIN: No apparent rashes
NEURO: Nonfocal
PSYCH: pleasant, mildly blunted affect

 
Pertinent Results:
ADMISSION LABS:
___ 09:56PM BLOOD WBC-8.0 RBC-4.21* Hgb-13.9 Hct-39.1* 
MCV-93 MCH-33.0* MCHC-35.5 RDW-12.9 RDWSD-44.0 Plt ___
___ 09:56PM BLOOD Neuts-73* Bands-15* Lymphs-7* Monos-5 
Eos-0 Baso-0 ___ Myelos-0 AbsNeut-7.04* 
AbsLymp-0.56* AbsMono-0.40 AbsEos-0.00* AbsBaso-0.00*
___ 08:38AM BLOOD ___ PTT-29.8 ___
___ 09:56PM BLOOD Glucose-108* UreaN-40* Creat-2.6* Na-123* 
K-4.3 Cl-83* HCO3-19* AnGap-21*
___ 09:56PM BLOOD ALT-44* AST-82* AlkPhos-67 TotBili-0.8
___ 09:56PM BLOOD Lipase-54
___ 09:56PM BLOOD Albumin-3.4*
___ 02:30AM BLOOD Calcium-7.7* Phos-4.8* Mg-1.7
___ 02:30AM BLOOD Osmolal-269*
___ 10:09PM BLOOD Lactate-1.4

DISCHARGE LABS:
___ 07:30AM BLOOD WBC-5.0 RBC-4.43* Hgb-14.3 Hct-42.1 
MCV-95 MCH-32.3* MCHC-34.0 RDW-14.0 RDWSD-49.3* Plt ___
___ 07:30AM BLOOD Glucose-93 UreaN-27* Creat-1.8* Na-141 
K-4.5 Cl-102 HCO3-24 AnGap-15
___ 07:30AM BLOOD ALT-58* AST-109* AlkPhos-145* TotBili-0.6
___ 07:30AM BLOOD Calcium-8.8 Phos-3.8 Mg-1.9

URINE STUDIES
___ 12:10AM URINE Color-Yellow Appear-Cloudy* Sp ___
___ 12:10AM URINE Blood-MOD* Nitrite-NEG Protein-100* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 12:10AM URINE RBC-3* WBC-14* Bacteri-FEW* Yeast-NONE 
Epi-0
___ 12:10AM URINE CastGr-7* CastHy-15*
___ 11:12AM URINE Hours-RANDOM UreaN-575 Creat-80 Na-26 
TotProt-52 Prot/Cr-0.7*
___ 11:12AM URINE Osmolal-349
___ 11:12AM URINE Streptococcus pneumoniae Antigen 
Detection-NEGATIVE      

Legionella Urinary Antigen  (Final ___: 
      PRESUMPTIVE POSITIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 

C.diff NEGATIVE

CXR ___ - IMPRESSION: 
Left lower lobe consolidation, worrisome for pneumonia.  
Possible associated
left pleural effusion.

CXR ___ - IMPRESSION: 
Comparison to ___.  The extensive left lower lobe 
pneumonia has
minimally decreased in extent and severity.  No new parenchymal 
abnormalities.
No pleural effusion.  Normal size of the heart.

RUQ U/S ___ - IMPRESSION:
1. 5 mm nonobstructive left nephrolithiasis.
2. Unremarkable appearance of the liver.  No biliary 
obstruction.
 
Brief Hospital Course:
___ year old with no significant PMH who presents with a 
constellation of findings including fever, headache, cough, and 
diarrhea, found to have legionella PNA, hyponatremia and ___, 
found to be legionella + with hyponatremia and ___.
 
# LEGIONELLA
Patient reports several days of fever, associated left shift 
including 15% bands. Legionella urinary antigen presumptive 
positive. Also significant headache, SOB with cough, and more 
recent development of diarrhea. Other findings include hypoxia 
(92% RA in ED) and CXR with LLL consolidation, concerning for 
pneumonia.  Though patient does report a headache as first 
symptom, no neck stiffness, photophobia/phonophobia. Diarrhea, 
hyponatremia, and pneumonia likely from legionella.  LFTs are 
elevated and patient does have thrombocytopenia. However, 
suspect LFTs more likely related to alcohol use than cause of 
fever given pattern (though legionella can also cause LFT 
elevation). Pt was started on levofloxacin with improvement in 
symptoms. Will continue levofloxacin for ___: Urine lytes with FeNa <1% suggestive of prerenal causes. 
Also noted to have elevated prot/Cr ratio, suggestive of 
possible underlying renal disease. Ultimately, clinical picture 
most consistent with pre-renal, and Cr ultimately improved with 
IVFs. However, Cr was still elevated to 1.8 at discharge. Should 
be repeated at outpatient f/u appointment, and patient should be 
referred for renal evaluation if Cr remains elevated.

# TRANSAMINITIS: Likely related to EtOH use. LFT's initially up 
trended but then stabilized. RUQ U/S without concerning 
findings. LFTs should be repeated at outpatient f/u appointment, 
and the patient should be referred for hepatology evaluation if 
they remain elevated.

# HYPONATREMIA: Na 123 in ED, likely hypovolemic hyponatremia, 
but could also be element of SIADH. Resolved.

# THROMBOCYTOPENIA: Unknown baseline. ___ be related to acute 
illness, also possibly alcohol use. Resolved.

# HEADACHE: ___ be related to dehydration, hyponatremia, fever. 
Improved with treatment of Legionella as above.

# ALCOHOL USE DISORDER: Patient reports 5 drinks per night, last 
drink several days prior to presentation. Only mild withdrawal 
symptoms during admission (mild tremors). Pt encouraged to 
refrain from EtOH use. Discharged on thiamine and folate 
supplementation. 

# HEMATURIA: should have repeat u/a as outpatient to assess for 
resolution 

TRANSITIONAL ISSUES:
- Pt to establish care with a new PCP.
- Should repeat Cr and LFTs at outpatient visit to ensure 
improvement.
- Needs repeat UA to ensure resolution of hematuria.
 
Medications on Admission:
none The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Levofloxacin 750 mg PO Q24H 
Please take for a total ___nding on ___. 
RX *levofloxacin 750 mg 1 tablet(s) by mouth daily Disp #*6 
Tablet Refills:*0 
3.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Legionella PNA
Hyponatremia
Acute renal failure 
Transaminitis
Hematuria
Mild alcohol withdrawal 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for evaluation of fever, headache, back pain 
and a cough with diarrhea. You were found to have a type of 
pneumonia called legionella that was treated with antibiotics. 
You were also found to have a low blood sodium and kidney injury 
that improved with fluids. You were also noted to have elevated 
liver enzymes, which is likely related to alcohol use.

It is very important that you establish care with a PCP ___ 
___ days to repeat your kidney and liver tests. You should also 
have a repeat urinalysis performed, as there was a small amount 
of blood in your urine here.

It is also very important that you continue to abstain from 
alcohol and tobacco use.
 
Followup Instructions:
___